US07851469B2
N-Cyclopropylmethyl-4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide
A solution of trimethylaluminium (2 M in toluene, 338 μL, 0.68 mmol) and cyclopropanemethylamine (60.4 μL, 0.68 mmol) in dioxane (9 mL) was stirred at room temperature for 1 h and then a solution of 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester (70 mg, 0.17 mmol) in dioxane (6 mL) was added. The resulting mixture was then heated at 85-95° C. overnight and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=60:40) afforded the title compound (60 mg, 78%) which was obtained as a colourless oil. MS: m/e=453.3 [M+H]+.

reactant | trimethylaluminium | 0.68 mmol, 2 M, 338 μL | C[Al](C)C
reactant | cyclopropanemethylamine | 0.68 mmol, 60.4 μL | C1(CC1)CN | C4H9N
reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.17 mmol, 70 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
reactant | water | O | H2O
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropylmethyl-4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide | 60 mg, 78% | C1(CC1)CNC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C24H19F3N4O2
